US05081260
To a 5 liter volume flask of glass equipped with a stirrer, a fractional distillation column, a thermometer and a dropping funnel, there were added 270.1 g (5.0 mol) of sodium methoxide and 2 liters of toluene. After 425.6 g (5.0 mol) of 2-pyrrolidone was dropwise added to the flask through the dropping funnel at room temperature, the resulting methanol was completely removed by the fractional distillation column. 6.9 g (25 mmol) of (Butyl-)4NCl was added as a phase transfer catalyst and 382.7 g (5.0 mol) of allyl chloride was dropwise added to the reaction mixture at a temperature ranging from 60° to 70° C. through the dropping funnel to react them. After the completion of the reaction, water was added to dissolve salts formed during the reaction and then the organic phase was removed. Then the organic phase was distilled to separate the fractions having a boiling point ranging from 75° to 76° C./4 mmHg. Thus, 562.5 g of 1-allyl-2-oxopyrrolidine was obtained in a yield of 89.9%.

reactant | sodium methoxide | 5.0 mol, 270.1 g | C[O-].[Na+]
reactant | toluene | 2 liters | C1(=CC=CC=C1)C | C7H8
reactant | 2-pyrrolidone | 5.0 mol, 425.6 g | N1C(CCC1)=O | C4H7NO
reactant | allyl chloride | 5.0 mol, 382.7 g | C(C=C)Cl | C3H5Cl
solvent | water | O | H2O
product | 1-allyl-2-oxopyrrolidine | 562.5 g, yield of 89.9% | C(C=C)N1C(CCC1)=O | C7H11NO
